US04301066
A solution of Boc-D-Trp-OH (5.5 g), dicyclohexylcarbodiimide (4.05 g) and 1-hydroxybenzotriazole (3.6 g) in dimethylformamide (70 ml) was stirred at ice-bath temperature for 90 min. A solution of H-Leu-Arg-Pro-Gly-NH2 diacetate (10 g, described by H. U. Immer et al., U.S. Pat. No. 3,835,108, cited above) in dimethylformamide (60 ml) was adjusted to pH 8 with N-ethylmorpholine and added to the above solution. The resulting mixture was stirred at room temperature overnight and filtered. The filtrate was evaporated and the residue was dissolved in methanol. Diethyl ether was added and the precipitate was collected and chromatographed on silica gel using chloroform-methanol-35% aqueous acetic acid (5:3:1 v/v). The pure fractions were collected and evaporated. The residue was dissolved in methanol and diethyl ether was added. The precipitate was collected and dried to give 7.8 g of Boc-D-Trp-Leu-Arg-Pro-Gly-NH2 ; nmr (DMSO-D6)δ 0.80 (m, 6H) and 1.30 (s, 9H); uv max (methanol) 289 (ε=4433) and 281 nm (ε=5015); and amino acid analysis: Gly (1.00), Pro (0.98), Leu (0.97), Arg (0.95) and Trp (0.63); and [α]D25 -16.89° (c=1, 1% acetic acid).

reactant | Boc-D-Trp-OH | 5.5 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C | C16H20N2O4
reactant | dicyclohexylcarbodiimide | 4.05 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 3.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | H-Leu-Arg-Pro-Gly-NH2 diacetate | N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1.CC(=O)O.CC(=O)O
reactant | N-ethylmorpholine | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | Boc-D-Trp-Leu-Arg-Pro-Gly-NH2 | 7.8 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1)C(=O)OC(C)(C)C | C35H54N10O7
